US05474707
Compound (250) can be prepared in the same manner as in Preparation Example 240, except for replacing compound (P102) with 4-chloro-3,5-difluorophenol. The 4-chloro-3,5-difluorophenol can be prepared by reacting a Grignard reagent prepared from 1-bromo-4-chloro-3,5-difluorobenzene with t-butyl hydroperoxide or converting the same Grignard reagent to a boric ester, and oxidizing the product with hydrogen peroxide under a basic condition. It is also prepared by nitrating 2-chloro-1,3-difluorobenzene (obtainable by decomposing a diazonium salt of 2,6-difluoroaniline in the presence of cuprous chloride or in hydrochloric acid), reducing the nitro-compound to obtain 4-chloro-3,5-difluoroaniline, and decomposing its diazonium salt in sulfuric acid.

reactant | 4-chloro-3,5-difluorophenol | ClC1=C(C=C(C=C1F)O)F | C6H3ClF2O
reactant | 1-bromo-4-chloro-3,5-difluorobenzene | BrC1=CC(=C(C(=C1)F)Cl)F | C6H2BrClF2
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | hydrogen peroxide | OO | H2O2
reactant | 2-chloro-1,3-difluorobenzene | ClC1=C(C=CC=C1F)F | C6H3ClF2
reactant | 2,6-difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
solvent | hydrochloric acid | Cl | ClH
product | 4-chloro-3,5-difluoroaniline | ClC1=C(C=C(N)C=C1F)F | C6H4ClF2N
